### PR TITLE
[Merged by Bors] - feat: add TensorProduct.piScalarRight_symm_algebraMap

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/TensorProduct/Pi.lean [hunk 1]
```diff
@@ -164,4 +164,10 @@ lemma piScalarRight_symm_single (x : N) (i : ι) :
     (piScalarRight R S N ι).symm (Pi.single i x) = x ⊗ₜ Pi.single i 1 := by
   simp [piScalarRight]
 
+theorem piScalarRight_symm_algebraMap {N : Type*}
+    [Semiring N] [Algebra R N] [Module S N] [IsScalarTower R S N] (x : ι → R) :
+    (TensorProduct.piScalarRight R S N ι).symm (fun i => algebraMap _ _ (x i)) =
+      1 ⊗ₜ[R] (∑ i, Pi.single i (x i)) := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/TensorProduct/Pi.lean]: Would it not be better to have this as:
```suggestion
    ∑ i, 1 ⊗ₜ[R] Pi.single i (x i) := by
```

Comment (Ruben-VandeVelde) [reply Mathlib/LinearAlgebra/TensorProduct/Pi.lean]: No, but it's definitely better as:
```suggestion
      1 ⊗ₜ[R] x := by
```

File: Mathlib/LinearAlgebra/TensorProduct/Pi.lean [hunk 2]
```diff
@@ -164,4 +164,9 @@ lemma piScalarRight_symm_single (x : N) (i : ι) :
     (piScalarRight R S N ι).symm (Pi.single i x) = x ⊗ₜ Pi.single i 1 := by
   simp [piScalarRight]
 
+theorem piScalarRight_symm_algebraMap {N : Type*}
+    [Semiring N] [Algebra R N] [Module S N] [IsScalarTower R S N] (x : ι → R) :
+    (TensorProduct.piScalarRight R S N ι).symm (fun i => algebraMap _ _ (x i)) = 1 ⊗ₜ[R] x := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/TensorProduct/Pi.lean]: if you move this to `RingTheory/TensorProduct/Pi`, then you can do this:
```suggestion
    (TensorProduct.piScalarRight R S N ι).symm (algebraMap _ _ x) = 1 ⊗ₜ[R] x := by
```

Comment (Ruben-VandeVelde) [reply Mathlib/LinearAlgebra/TensorProduct/Pi.lean]: I'm not convinced that's better

Comment (ocfnash) [reply Mathlib/LinearAlgebra/TensorProduct/Pi.lean]: I see the downside that the dependence on `Pi.instAlgebraForall` is somewhat redundant but I think I'd side with Monica here.

For the sake of breaking a tie, let's go with the proposed change.

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/TensorProduct/Pi.lean [hunk 3]
```diff
@@ -100,3 +100,14 @@ lemma prodRight_symm_tmul (a : A) (b : B) (c : C) :
...
+theorem TensorProduct.piScalarRight_symm_algebraMap
+    (R : Type*) [CommSemiring R] (S : Type*) [CommSemiring S] [Algebra R S]
+    (ι : Type*) [Fintype ι] [DecidableEq ι]
+    {N : Type*} [Semiring N] [Algebra R N] [Module S N] [IsScalarTower R S N]
+    (x : ι → R) :
+    (TensorProduct.piScalarRight R S N ι).symm (algebraMap _ _ x) = 1 ⊗ₜ[R] x := by
+  simp only [Algebra.algebraMap_eq_smul_one, LinearEquiv.symm_apply_eq, piScalarRight_apply,
+    piScalarRightHom_tmul]
+  ext
+  simp
```
Comment (themathqueen) [inline Mathlib/RingTheory/TensorProduct/Pi.lean]: does this work?
```suggestion
  simp [AlgEquiv.symm_apply_eq, algebraMap_eq_smul_one, piScalarRight_tmul, Pi.smul_def']
```

**Comment by Ruben-VandeVelde** [comment]
bors merge
